### PR TITLE
[Merged by Bors] - feat(Topology/ValuativeRel): continuous valuation when IsValuativeTopology

### PR DESCRIPTION
**Pull request by pechersky**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 1]
```diff
@@ -188,6 +189,30 @@ lemma isOpen_sphere {r : ValueGroupWithZero R} (hr : r ≠ 0) :
 @[deprecated (since := "2025-08-01")]
 alias _root_.ValuativeTopology.isOpen_sphere := isOpen_sphere
 
+open WithZeroTopology in
+lemma continuous_valuation : Continuous v where
```
Comment (kckennylau) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: I don't have time to try it yet, but maybe it would be simpler to prove this by filter?

Comment (YaelDillies) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: Indeed! I pushed such a golf

**Review by YaelDillies — APPROVED** [review]
If you're happy with my golf, then

maintainer delegate

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 2]
```diff
@@ -320,6 +320,11 @@ theorem map_eq_of_sub_lt (h : v (y - x) < v x) : v y = v x := by
   rw [max_eq_right (le_of_lt h)] at this
   simpa using this
 
+lemma map_sub_of_right_eq_zero (hy : v y = 0) : v (x - y) = v x := by
+  by_cases hx : v x = 0
+  · simpa [*] using map_sub v x y
+  · simp [*, map_sub_eq_of_lt_left, zero_lt_iff]
```
Comment (kckennylau) [inline Mathlib/RingTheory/Valuation/Basic.lean]:
```suggestion
lemma map_sub_of_right_eq_zero (hy : v y = 0) : v (x - y) = v x := by
  by_cases hx : v x = 0
  · simpa [*] using v.map_sub x y
  · simp [*, map_sub_eq_of_lt_left, zero_lt_iff]
```

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 3]
```diff
@@ -188,6 +189,16 @@ lemma isOpen_sphere {r : ValueGroupWithZero R} (hr : r ≠ 0) :
...
 
+open WithZeroTopology in
+lemma continuous_valuation : Continuous v := by
+  simp only [continuous_iff_continuousAt, ContinuousAt]
+  rintro x
+  by_cases hx : v x = 0
+  · simpa [hx, (hasBasis_nhds _).tendsto_iff WithZeroTopology.hasBasis_nhds_zero,
+      Valuation.map_sub_of_right_eq_zero _ hx] using fun i hi ↦ ⟨.mk0 i hi, fun y ↦ id⟩
+  · simpa [(hasBasis_nhds _).tendsto_iff (WithZeroTopology.hasBasis_nhds_of_ne_zero hx)]
+      using ⟨.mk0 (v x) hx, fun _ ↦ Valuation.map_eq_of_sub_lt _⟩
```
Comment (kckennylau) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean:200]:
```suggestion
lemma continuous_valuation : Continuous v := by
  simp only [continuous_iff_continuousAt, ContinuousAt]
  intro x
  by_cases hx : v x = 0
  · simpa [hx, (hasBasis_nhds _).tendsto_iff WithZeroTopology.hasBasis_nhds_zero,
      (v).map_sub_of_right_eq_zero hx] using fun i hi ↦ ⟨.mk0 i hi, fun y ↦ id⟩
  · simpa [(hasBasis_nhds _).tendsto_iff (WithZeroTopology.hasBasis_nhds_of_ne_zero hx)]
      using ⟨.mk0 (v x) hx, fun _ ↦ (v).map_eq_of_sub_lt⟩
```

Comment (YaelDillies) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean:200]: Why use the botched `intro` tactic? It's one letter less and strictly worse

**Comment by JovanGerb** [comment]
Surely we would want to have the other versions of `map_sub_of_right_eq_zero` (with left and/or add)?

File: Mathlib/RingTheory/Valuation/Basic.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Valuation/Basic.lean]: 🤷

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 4]
```diff
@@ -320,6 +320,20 @@ theorem map_eq_of_sub_lt (h : v (y - x) < v x) : v y = v x := by
   rw [max_eq_right (le_of_lt h)] at this
   simpa using this
 
+lemma map_sub_of_left_eq_zero (hx : v x = 0) : v (x - y) = v y := by
+  by_cases hy : v y = 0
+  · simpa [*] using map_sub v x y
+  · simp [*, map_sub_eq_of_lt_right, zero_lt_iff]
+
+lemma map_sub_of_right_eq_zero (hy : v y = 0) : v (x - y) = v x := by
+  rw [← neg_sub, map_neg, map_sub_of_left_eq_zero v hy]
```
Comment (JovanGerb) [inline Mathlib/RingTheory/Valuation/Basic.lean]:
```suggestion
  rw [map_sub_swap, map_sub_of_left_eq_zero v hy]
```

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 5]
```diff
@@ -320,6 +320,20 @@ theorem map_eq_of_sub_lt (h : v (y - x) < v x) : v y = v x := by
...
+
+lemma map_add_of_left_eq_zero (hx : v x = 0) : v (x + y) = v y := by
+  rw [← neg_neg y, ← sub_eq_add_neg, map_sub_of_left_eq_zero v hx, ← map_neg]
```
Comment (JovanGerb) [inline Mathlib/RingTheory/Valuation/Basic.lean]:
```suggestion
  rw [← sub_neg_eq_add, map_sub_of_left_eq_zero v hx, map_neg]
```

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
